US07199126B2
1.43 g (3.42 mmole) of simvastatin lactone was dissolved in 10 mL acetonitrile and treated with water (5 mL) and sodium hydroxide (151 mg, 3.78 mmole). The reaction was stirred at room temperature for 3 days, at which time analytical thin-layer chromatography using 4:1 methylene chloride:acetone eluent indicated essentially complete conversion of the starting lactone to a more polar product. The reaction mixture was then diluted to 50 mL with 1:1 acetonitrile:water, frozen and lyophilized to afford 1.22 g (2.66 mmole, 77.8%) of simvastatin sodium as a fluffy white solid. The 400 MHz 1H nuclear magnetic resonance (NMR) spectrum was consistent with the sodium carboxylate product. 1H NMR (Me2SO-d6) δ 7.6 (br s, 1H), 5.95 (d, 1H), 5.8 (m, 1H), 5.5 (s, 1H), 5.1 (s, 1H), 4.6 (s, 1H), 3.7 (br s, 1H), 3.5 (br s, 1H), 2.3 (m, 2H), 2.2 (d, 1H), 2.0 (m, 2H), 1.8 (m, 2H), 1.6–1.3 (5H), 1.2 (br s, 3H), 1.0 (9H), 0.80 (m, 3H), 0.75 (m, 3H).

reactant | simvastatin lactone | 3.42 mmole, 1.43 g | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
reactant | sodium hydroxide | 3.78 mmole, 151 mg | [OH-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | simvastatin sodium | 2.66 mmole, 1.22 g, 77.8% | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)[O-])O)O)C.[Na+] | InChI=1S/C25H40O6.Na/c1-6-25(4,5)24(30)31-21-12-15(2)11-17-8-7-16(3)20(23(17)21)10-9-18(26)13-19(27)14-22(28)29;/h7-8,11,15-16,18-21,23,26-27H,6,9-10,12-14H2,1-5H3,(H,28,29);/q;+1/p-1/t15-,16-,18+,19+,20-,21-,23-;/m0./s1
